* extracted by klt extract --deck sg13cmos5l

* cell pll_lock_detector
* pin DN
* pin ERR
* pin ERRD
* pin LOCK
* pin UP
* pin VDD
* pin VSS
* pin VWIN
* pin WIDE
* pin XDW.d1
* pin XDW.d2
* pin XDW.d3
* pin XNW.mid1
* pin XSCH.nn
* pin XSCH.np
* pin XXOR.XN1.mid1
* pin XXOR.XN2.mid1
* pin XXOR.XN3.mid1
* pin XXOR.XN4.mid1
* pin XXOR.n1
* pin XXOR.n2
* pin XXOR.n3
* pin nwide
.SUBCKT pll_lock_detector DN ERR ERRD LOCK UP VDD VSS VWIN WIDE XDW.d1 XDW.d2
+ XDW.d3 XNW.mid1 XSCH.nn XSCH.np XXOR.XN1.mid1 XXOR.XN2.mid1 XXOR.XN3.mid1
+ XXOR.XN4.mid1 XXOR.n1 XXOR.n2 XXOR.n3 nwide
* device instance $1 r0 *1 2.3,3.11 nfet
X$1 XXOR.n1 UP XXOR.XN1.mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $2 r0 *1 6.26,3.11 nfet
X$2 XXOR.XN1.mid1 DN VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $3 r0 *1 10.22,3.11 nfet
X$3 XXOR.n2 UP XXOR.XN2.mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $4 r0 *1 14.18,3.11 nfet
X$4 XXOR.XN2.mid1 XXOR.n1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $5 r0 *1 18.14,3.11 nfet
X$5 XXOR.n3 DN XXOR.XN3.mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $6 r0 *1 22.1,3.11 nfet
X$6 XXOR.XN3.mid1 XXOR.n1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $7 r0 *1 26.06,3.11 nfet
X$7 ERR XXOR.n2 XXOR.XN4.mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $8 r0 *1 30.02,3.11 nfet
X$8 XXOR.XN4.mid1 XXOR.n3 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $9 r0 *1 33.98,3.11 nfet
X$9 XDW.d1 ERR VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $10 r0 *1 37.94,3.11 nfet
X$10 XDW.d2 XDW.d1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $11 r0 *1 41.9,3.11 nfet
X$11 XDW.d3 XDW.d2 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $12 r0 *1 45.86,3.11 nfet
X$12 ERRD XDW.d3 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $13 r0 *1 49.82,3.11 nfet
X$13 nwide ERR XNW.mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $14 r0 *1 53.78,3.11 nfet
X$14 XNW.mid1 ERRD VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $15 r0 *1 57.74,3.11 nfet
X$15 WIDE nwide VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $16 r0 *1 61.7,3.11 nfet
X$16 VWIN WIDE VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U PD=4.8U
* device instance $17 r0 *1 65.66,3.11 nfet
X$17 LOCK VWIN XSCH.nn VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $18 r0 *1 69.62,3.11 nfet
X$18 XSCH.nn VWIN VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $19 r0 *1 73.58,3.11 nfet
X$19 XSCH.nn LOCK VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $20 r0 *1 85.68,3.11 pfet
X$20 XXOR.n1 UP VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $21 r0 *1 92.64,3.11 pfet
X$21 XXOR.n1 DN VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $22 r0 *1 99.6,3.11 pfet
X$22 XXOR.n2 UP VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $23 r0 *1 106.56,3.11 pfet
X$23 XXOR.n2 XXOR.n1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $24 r0 *1 113.52,3.11 pfet
X$24 XXOR.n3 DN VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $25 r0 *1 120.48,3.11 pfet
X$25 XXOR.n3 XXOR.n1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $26 r0 *1 127.44,3.11 pfet
X$26 ERR XXOR.n2 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $27 r0 *1 134.4,3.11 pfet
X$27 ERR XXOR.n3 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $28 r0 *1 141.36,3.11 pfet
X$28 XDW.d1 ERR VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $29 r0 *1 148.32,3.11 pfet
X$29 XDW.d2 XDW.d1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $30 r0 *1 155.28,3.11 pfet
X$30 XDW.d3 XDW.d2 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $31 r0 *1 162.24,3.11 pfet
X$31 ERRD XDW.d3 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $32 r0 *1 169.2,3.11 pfet
X$32 nwide ERR VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $33 r0 *1 176.16,3.11 pfet
X$33 nwide ERRD VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $34 r0 *1 183.12,3.11 pfet
X$34 WIDE nwide VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $35 r0 *1 190.08,3.11 pfet
X$35 XSCH.np VWIN VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $36 r0 *1 197.04,3.11 pfet
X$36 LOCK VWIN XSCH.np VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $37 r0 *1 204,3.11 pfet
X$37 XSCH.np LOCK VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $38 r0 *1 564.3,0.45 rhigh
R$38 VDD VWIN VSS 1904000 rhigh
.ENDS pll_lock_detector
