* extracted by klt extract --deck sg13cmos5l

* cell genprobe_mos_pfet
* pin WELL_TAP
.SUBCKT genprobe_mos_pfet WELL_TAP
* device instance $1 r0 *1 0.67,2.5 pfet
X$1 \$2 \$5 \$1 WELL_TAP sg13_lv_pmos L=0.5U W=5U AS=2.1P AD=2.1P PS=10.84U
+ PD=10.84U
* device instance $2 r0 *1 2.41,2.5 pfet
X$2 \$4 \$6 \$3 WELL_TAP sg13_lv_pmos L=0.5U W=5U AS=2.1P AD=2.1P PS=10.84U
+ PD=10.84U
.ENDS genprobe_mos_pfet
